US08461185B2
Step A: tert-butyl 3-(5-methylpyridin-2-yl)-5-(5-oxa-6-azaspiro[3.4]oct-6-en-7-yl)benzoate
To a solution of tert-butyl 3-bromo-5-(5-oxa-6-azaspiro[3.4]oct-6-en-7-yl)benzoate (1.42 g, 3.88 mmol) and bis(tri-tert-butylphosphine)palladium(0) (59.0 mg, 0.12 mmol) in dioxane (20 mL) was added 5-methyl-2-pyridylzinc bromide (0.5 M in THF; 15.5 mL, 7.75 mmol). The reaction mixture was heated to 70° C. After 1 h, the reaction was cooled to ambient temperature and the solvent was evaporated. Saturated aqueous sodium potassium tartrate was adde and the mixture was extracted with ethyl acetae (3×). The combined organic extracts were washed with brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% hexanes→75% hexanes/ethyl acetate) gave the title compound (1.42 g). MS 379.2 (M+1).

reactant | tert-butyl 3-bromo-5-(5-oxa-6-azaspiro[3.4]oct-6-en-7-yl)benzoate | 3.88 mmol, 1.42 g | BrC=1C=C(C(=O)OC(C)(C)C)C=C(C1)C1=NOC2(CCC2)C1 | C17H20BrNO3
reactant | 5-methyl-2-pyridylzinc bromide | 7.75 mmol, 0.5 M, 15.5 mL | [Br-].CC=1C=CC(=NC1)[Zn+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.12 mmol, 59.0 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | tert-butyl 3-(5-methylpyridin-2-yl)-5-(5-oxa-6-azaspiro[3.4]oct-6-en-7-yl)benzoate | 1.42 g | CC=1C=CC(=NC1)C=1C=C(C(=O)OC(C)(C)C)C=C(C1)C1=NOC2(CCC2)C1 | C23H26N2O3
